US04914188
Step 4: L-Valyl-N-Methyl-L-Alanyl-L-Alanine Benzyl Ester
A stirred solution of 17 g (0.0367 mole) Boc-L-valyl-N-methyl-L-alanyl-L-alanine benzyl ester in 170 ml of dry dichloromethane was cooled at -10° C. as 85 ml of trifluoroacetic acid, previously cooled at -15° C., was added. After 16 hours -5° C., the reaction was carefully poured with good stirring into a mixture of 93 g of sodium bicarbonate, ice, and 250 ml of dichloromethane. The organic layer was separated and the aqueous layer was extracted with another 75 ml of dichloromethane. The combined organic layers were washed with 3×75 ml of saturated sodium bicarbonate solution, dried over magnesium sulfate, and evaporated to give 12.8 g (96% of theory) of crude product which was used in step 5 without further purification. FAB m.s. showed a molecular ion peak at 364.

reactant | Boc-L-valyl-N-methyl-L-alanyl-L-alanine benzyl ester | 0.0367 mole, 17 g | C(C1=CC=CC=C1)OC([C@@H](NC([C@@H](N(C)C([C@@H](NC(=O)OC(C)(C)C)C(C)C)=O)C)=O)C)=O | C24H37N3O6
reactant | trifluoroacetic acid | 85 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium bicarbonate | 93 g | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 170 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | L-Valyl-N-Methyl-L-Alanyl-L-Alanine Benzyl Ester | C(C1=CC=CC=C1)OC([C@@H](NC([C@@H](N(C)C([C@@H](N)C(C)C)=O)C)=O)C)=O | C19H29N3O4
